US04954509
(+)-1-(pyrrolidin-1-yl)methyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide
0.66 g (2.15 mmoles) of (+)-1-(pyrrolidin-1-yl)methyl-5-methoxy-1,2,3,4-tetrahydroisoquinoline acetate were heated two hours at 130° C. with 7 ml of 47% HBr solution.

reactant | (+)-1-(pyrrolidin-1-yl)methyl-5-methoxy-1,2,3,4-tetrahydroisoquinoline acetate | 2.15 mmoles, 0.66 g | C(C)(=O)O.N1(CCCC1)CC1NCCC2=C(C=CC=C12)OC
reactant | HBr | 7 ml | Br | BrH
product | (+)-1-(pyrrolidin-1-yl)methyl-5-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide | Br.Br.N1(CCCC1)CC1NCCC2=C(C=CC=C12)O | InChI=1S/C14H20N2O.2BrH/c17-14-5-3-4-11-12(14)6-7-15-13(11)10-16-8-1-2-9-16;;/h3-5,13,15,17H,1-2,6-10H2;2*1H
